US06251910B1
a) (1S-cis)-4-[[6-Chloro-5-nitro-2-(propylthio)-pyrimidin-4-yl]amino]-2-cyclopentene-1-ol
To a solution of 4,6-dichloro-5-nitro-2-propylthiopyrimidine (prepared as described in WO 9703084) (4.00 g) and triethylamine (2.00 ml) in dry tetrahydrofuran (THF) (100 ml) was added a solution of [1S-cis]-4-amino-2-cyclopenten-1-ol (prepared as described by S. F. Martin et al., Tetrahedron Lett., 1992, 33, 3583) (1.48 g) in THF/1,4-dioxane 2:1 (150 ml) dropwise over 1 hour. The reaction mixture was filtered, concentrated and purified (SiO2, ethyl acetate:isohexane 1:4 to 1:1 as eluant) to afford the subtitle compound (3.18 g).

reactant | 4,6-dichloro-5-nitro-2-propylthiopyrimidine | 4.00 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)SCCC | C7H7Cl2N3O2S
reactant | triethylamine | 2.00 ml | C(C)N(CC)CC | C6H15N
reactant | [1S-cis]-4-amino-2-cyclopenten-1-ol | 1.48 g | N[C@H]1C=C[C@H](C1)O | C5H9NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF 1,4-dioxane | 150 ml | O1CCCC1.O1CCOCC1
product | (1S-cis)-4-[[6-Chloro-5-nitro-2-(propylthio)-pyrimidin-4-yl]amino]-2-cyclopentene-1-ol | 3.18 g | ClC1=C(C(=NC(=N1)SCCC)N[C@H]1C=C[C@H](C1)O)[N+](=O)[O-] | C12H15ClN4O3S
